US07273867B2
6.5 g (47.0 mmol) of potassium carbonate and 597 mg (3.10 mmol) of copper(l) iodide are added to a solution of 5.70 g (31.3 mmol) of 3-bromobenzonitrile and 5.30 g (31.3 mmol) of 2-fluoro-dl-alpha-phenylglycine in 30 ml of N,N-dimethylacetamide, and the mixture is stirred at 90° C. for 48 hours. The reaction mixture is then poured into 80 ml of 1N HCl and extracted twice with diethyl ether. The combined organic phases are extracted twice with 50 ml of 1N NaOH each time. The two basic aqueous phases are combined, acidified using 25% HCl and extracted twice with 80 ml of diethyl ether each time. These two organic phases are combined, dried using sodium sulfate and subsequently evaporated, giving (3-cyanophenylamino)-2-fluorophenylacetic acid as a yellowish solid; ESI 270.

reactant | potassium carbonate | 47.0 mmol, 6.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodide | [I-]
reactant | 3-bromobenzonitrile | 31.3 mmol, 5.70 g | BrC=1C=C(C#N)C=CC1 | C7H4BrN
reactant | 2-fluoro-dl-alpha-phenylglycine | 31.3 mmol, 5.30 g | C1=CC=C(C(=C1)C(C(=O)O)N)F | C8H8FNO2
reactant | HCl | 1N, 80 ml | Cl | ClH
solvent | N,N-dimethylacetamide | 30 ml | CN(C(C)=O)C | C4H9NO
catalyst | copper | 3.10 mmol, 597 mg | [Cu] | Cu
product | (3-cyanophenylamino)-2-fluorophenylacetic acid | C(#N)C=1C=C(C=CC1)NC(C(=O)O)C1=C(C=CC=C1)F | C15H11FN2O2
